US07737141B2
Synthesis of (2R,5S)-5-(4-chlorophenyl)pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester
Sodium borohydride (1.05 g) was added to a methanol (80 mL)-acetic acid (20 mL) solution of (R)-5-(4-chlorophenyl)-3,4-dihydro-2H-pyrrole-2-carboxylic acid ethyl ester (3.5 g) at −45° C. over 5 min. The resulting reaction solution was stirred for 3 hr while heating from −45° C. to 0° C. To the reaction solution, a disodium hydrogenphosphate was added. The resulting reaction solution was stirred at room temperature for 20 min, and the organic solvent was evaporated under reduced pressure. The residue was extracted with ethyl acetate. The organic layer was washed with a sodium hydrogencarbonate aqueous solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give 3.6 g of a yellow oily substance. To a dichloromethane solution (50 mL) of the obtained oily substance, triethylamine (7.49 mL) and di-tert-butyl dicarbonate (3.76 g) were added. The resulting reaction solution was stirred at room temperature for 1 hr and then poured into iced-water. The resulting mixture was extracted with ethyl acetate. The extract solution was washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane-ethyl acetate system) to give 3.3 g of the title compound as a yellow oily substance. The physical property values of this compound were as follows:

reactant | Sodium borohydride | 1.05 g | [BH4-].[Na+]
reactant | (R)-5-(4-chlorophenyl)-3,4-dihydro-2H-pyrrole-2-carboxylic acid ethyl ester | 3.5 g | C(C)OC(=O)[C@@H]1N=C(CC1)C1=CC=C(C=C1)Cl | C13H14ClNO2
reactant | disodium hydrogenphosphate | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | di-tert-butyl dicarbonate | 3.76 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | O | H2O
solvent | triethylamine | 7.49 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 80 mL | CO | CH4O
product | (2R,5S)-5-(4-chlorophenyl)pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 3.3 g | CCOC(=O)[C@@H]1N([C@@H](CC1)C1=CC=C(C=C1)Cl)C(=O)OC(C)(C)C | C18H24ClNO4
